US05149699
2-(2-tert-Butyl-1H-tetrazol-5-yl)phenyltri-n-butylstannane
To a cooled (-78° C.) solution of 1-tert-butyl-5-(2-bromophenyl)-1H-tetrazole (12.3 g, 0.043 mol), prepared as described in Step 3 of the Example 3 alternative synthesis, in THF (80 mL) was added 1.6M nBuLi in hexanes (32.7 mL, 0.052 mol). After 1 h, tri-n-butyltin chloride (17.1 g, 0.052 mol) was added and stirring was continued for 3 h at -78° C. The mixture was warmed to room temperature and stirred for 18 h. Water was added and the mixture was extracted with ether. The combined extracts were washed with water, brine, dried (MgSO4), and concentrated to give a brown oil. Excess tri-n-butyltin chloride and remaining starting material were removed by distillation under high vacuum to give 9.6 g (45%) of product as a brown oil.

reactant | 1-tert-butyl-5-(2-bromophenyl)-1H-tetrazole | 0.043 mol, 12.3 g | C(C)(C)(C)N1N=NN=C1C1=C(C=CC=C1)Br | C11H13BrN4
reactant | nBuLi | 1.6M | [Li]CCCC
reactant | tri-n-butyltin chloride | 0.052 mol, 17.1 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | Water | O | H2O
reactant | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-(2-tert-Butyl-1H-tetrazol-5-yl)phenyltri-n-butylstannane | 9.6 g, 45% | C(C)(C)(C)N1NC(=NN1)C1=C(C=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H15N4.3C4H9.Sn/c1-11(2,3)15-13-10(12-14-15)9-7-5-4-6-8-9;3*1-3-4-2;/h4-7,14H,1-3H3,(H,12,13);3*1,3-4H2,2H3;
